US07754727B2
A mixture of the title D compound in Example 13, (3R*,4R*)-4-(3′-hydroxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester (80 mg, 0.16 mmol), 2-chloroethyl methyl ether (57 μL, 0.62 mmol), K2CO3 (29 mg, 0.21 mmol), KI (16.6 mg, 0.1 mmol) and dimethylacetamide (1.5 mL) is stirred under argon for 16 h at 75° C. After the addition of a second portion of 2-chloroethyl methyl ether (35 mL, 0.38 mmol) and K2CO3 (44 mg, 0.32 mmol) stirring is continued for 18 h at 75° C. The mixture is filtered and the filtrate evaporated in vacuo. HCl (5M in 2-propanol, 1 mL, 5 mmol) is added to the crude residue and the mixture is stirred for 45 min. at RT. The reaction mixture is evaporated in vacuo and the residue purified using preparative HPLC (H2O/CH3CN). The combined pure fractions are treated with solid K2CO3 and CH3CN is removed in vacuo. The aqueous layer is extracted twice with CH2Cl2. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. The residue is stirred with HCl (5M in 2-propanol, 1 mL, 5 mmol) for 30 min. at RT. Evaporation of the solvent affords (3R*,4R*)-4-[3′-(2-methoxy-ethoxy)-biphenyl-3-yl]-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride as a brownish amorphous solid: MS (LC/MS) 468.4 [M+H]+; retention time 5.85 min (HPLC, Nucleosil C18; 5→100% CH3CN in H2O within 8 min).

reactant | (3R*,4R*)-4-(3′-hydroxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester | 0.16 mmol, 80 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC(=CC=C1)O)OCC1=CC2=CC=CC=C2C=C1 | C33H35NO4
reactant | 2-chloroethyl methyl ether | 0.62 mmol, 57 μL | COCCCl | C3H7ClO
reactant | K2CO3 | 0.21 mmol, 29 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroethyl methyl ether | 0.38 mmol, 35 mL | COCCCl | C3H7ClO
reactant | K2CO3 | 0.32 mmol, 44 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 5 mmol, 5M, 1 mL | Cl | ClH
reactant | HCl | 5 mmol, 5M, 1 mL | Cl | ClH
solvent | dimethylacetamide | 1.5 mL | CC(=O)N(C)C | C4H9NO
product | (3R*,4R*)-4-[3′-(2-methoxy-ethoxy)-biphenyl-3-yl]-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride | Cl.COCCOC=1C=C(C=CC1)C1=CC(=CC=C1)[C@@H]1[C@H](CNCC1)OCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C31H33NO3.ClH/c1-33-16-17-34-29-11-5-9-27(20-29)26-8-4-10-28(19-26)30-14-15-32-21-31(30)35-22-23-12-13-24-6-2-3-7-25(24)18-23;/h2-13,18-20,30-32H,14-17,21-22H2,1H3;1H/t30-,31+;/m1./s1
